US04055597
(4S)-4-(2-Tetrahydropyranyloxy)-2-nonynal (54.6 g., 0.23 mole) in dioxane (200 ml.) is hydrogenated at room temperature and a pressure of 2-3 atmospheres over a 5% palladium on charcoal catalyst to yield (4S)-4-(2-tetrahydropyranyloxy)nonanal purified by distillation at reduced pressure.

reactant | (4S)-4-(2-Tetrahydropyranyloxy)-2-nonynal | 0.23 mole, 54.6 g | O1C(CCCC1)O[C@H](C#CC=O)CCCCC | C14H22O3
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
product | (4S)-4-(2-tetrahydropyranyloxy)nonanal | O1C(CCCC1)O[C@H](CCC=O)CCCCC | C14H26O3
